US07199150B2
(14a) (2R)-2-t-Butoxycarbonylamino-2-ethyl-3-n-hexanoyloxy-1-propanol.
To a suspension of 2-t-butoxycarbonylamino-2-ethylpropane-1,3-diol (52.9 g, 241 mmol) in isopropyl ether (1.0 1) were added successively vinyl hexanoate (41 ml, 254 mmol) and lipase [Immobilized lipase from Pseudomonas sp., TOYOBO, 0.67 U/mg] (2.1 g) with stirring, and the resulting mixture was stirred at room temperature for 4 hours. After stirring, the reaction mixture was filtered and evaporated in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of hexane and ethyl acetate (7:1–4:1–2:1) as the eluent to afford the title compound (66.8 g, yield: 87%)

reactant | 2-t-butoxycarbonylamino-2-ethylpropane-1,3-diol | 241 mmol, 52.9 g | C(C)(C)(C)OC(=O)NC(CO)(CO)CC | C10H21NO4
reactant | vinyl hexanoate | 254 mmol, 41 ml | C(CCCCC)(=O)OC=C | C8H14O2
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | (2R)-2-t-Butoxycarbonylamino-2-ethyl-3-n-hexanoyloxy-1-propanol | 66.8 g, yield: 87% | C(C)(C)(C)OC(=O)N[C@](CO)(COC(CCCCC)=O)CC | C16H31NO5
